US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-nitropyridin-2-yl)phenyl)guanidine (200 mg) in dichloromethane (2 ml) was added 4N hydrogen chloride in 1,4-dioxane (2 ml), and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (100 ml), and the.precipitate was collected by filtration and dried under reduced pressure to give 3-(3-nitropyridin-2-yl)phenylguanidine dihydrochloride (127 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-nitropyridin-2-yl)phenyl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1[N+](=O)[O-])NC(=O)OC(C)(C)C | C22H27N5O6
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 3-(3-nitropyridin-2-yl)phenylguanidine dihydrochloride | 127 mg | Cl.Cl.[N+](=O)([O-])C=1C(=NC=CC1)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C12H11N5O2.2ClH/c13-12(14)16-9-4-1-3-8(7-9)11-10(17(18)19)5-2-6-15-11;;/h1-7H,(H4,13,14,16);2*1H
